US04136256
Preparation of N-[4-(hexadecylamino)benzoyl]-2-aminoisobutyric acid
To a stirred solution of 103 mg. of 2-aminoisobutyric acid and 4.5 ml. of triethylamine in 1.5 ml. of water is added a solution of 550 mg. of N-[N-trifluoroacetyl-4-(hexadecylamino)benzoyloxy]succinimide in 4.5 ml. of ethanol. The mixture is stirred for 23 hours at room temperature, treated with 2 ml. of 2N sodium hydroxide solution, and then acidified. The mixture is diluted with water and then filtered. Recrystallization from ether-hexane affords the title compound as a white solid.

reactant | 2-aminoisobutyric acid | NC(C(=O)O)(C)C | C4H9NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-[N-trifluoroacetyl-4-(hexadecylamino)benzoyloxy]succinimide | FC(C(=O)N(C1=CC=C(C(=O)ON2C(CCC2=O)=O)C=C1)CCCCCCCCCCCCCCCC)(F)F | C29H41F3N2O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-[4-(hexadecylamino)benzoyl]-2-aminoisobutyric acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NC(C(=O)O)(C)C)C=C1 | C27H46N2O3
